US06252084B1
Using the procedure described in Example 50, Part A, 2.47 g (0.01 mol) of 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester was reacted with 0.48 g (0.012 mol) of 60% NaH/mineral oil and then 2.17 mL (0.012 mol of iodooctane. The product was chromatographed on silica gel and eluted with 5% EtOAc/toluene to give 1.85 g (51% yield) of 5-methoxy-2-methyl-1-octyl-1H-indole-3-acetic acid ethyl ester as an oil.

reactant | 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 0.01 mol, 2.47 g | C(C)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C14H17NO3
reactant | NaH | 0.012 mol, 0.48 g | [H-].[Na+]
reactant | iodooctane | 0.012 mol | ICCCCCCCC | C8H17I
product | 5-methoxy-2-methyl-1-octyl-1H-indole-3-acetic acid ethyl ester | 1.85 g, 51% yield | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)CCCCCCCC)C)=O | C22H33NO3
